US04560685
6-Benzyloxy-4,7-bis-(dimethylamino)-2-piperazino-pteridine
This compound was prepared analogous to Example 3 from 6-chloro-4,7-bis-(dimethylamino)-2-piperazino-pteridine and benzyl alcohol.

reactant | 6-chloro-4,7-bis-(dimethylamino)-2-piperazino-pteridine | ClC=1N=C2C(=NC(=NC2=NC1N(C)C)N1CCNCC1)N(C)C | C14H21ClN8
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 6-Benzyloxy-4,7-bis-(dimethylamino)-2-piperazino-pteridine | C(C1=CC=CC=C1)OC=1N=C2C(=NC(=NC2=NC1N(C)C)N1CCNCC1)N(C)C | C21H28N8O
